US04605656
A solution of 3 g of 2',4'-dichloro-2-(3-pyridyl)-acetophenone oxime in 25 ml of dimethoxyethane is treated portionwise with 0.51 g of sodium hydride dispersion (55% in oil) and the mixture is stirred for 30 minutes at room temperature. Thereupon, 2.0 g of ethyl iodide are added and the mixture is heated at reflux temperature. After 4 hours, the mixture is poured onto ice and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and concentrated under reduced pressure. The crude product is purified by chromatography on silica gel to yield 2',4'-dichloro-2-(3-pyridyl)-acetophenone O-ethyl oxime as a yellowish oil.

reactant | 2',4'-dichloro-2-(3-pyridyl)-acetophenone oxime | 3 g | ClC1=C(C=CC(=C1)Cl)C(CC=1C=NC=CC1)=NO | C13H10Cl2N2O
reactant | sodium hydride | 0.51 g | [H-].[Na+]
reactant | ethyl iodide | 2.0 g | C(C)I | C2H5I
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
product | 2',4'-dichloro-2-(3-pyridyl)-acetophenone O-ethyl oxime | C(C)ON=C(CC=1C=NC=CC1)C1=C(C=C(C=C1)Cl)Cl | C15H14Cl2N2O
